US06054470
A mixture of 5-ethynyl-4-methyl-3-nitro-2-pyridone (0.18 g, 0.6 mmol) and 10% Pd/C (0.02 g) in ethanol/ethyl acetate (50 mL, 1/1) was hydrogenated at 35 psi in a Parr apparatus overnight. The catalyst was removed by filtration, and the solvents were evaporated to give 3-amino-5-ethyl-4-methyl-2-pyridone.

reactant | 5-ethynyl-4-methyl-3-nitro-2-pyridone | 0.6 mmol, 0.18 g | C(#C)C=1C(=C(C(NC1)=O)[N+](=O)[O-])C | C8H6N2O3
solvent | ethanol ethyl acetate | 50 mL | C(C)O.C(C)(=O)OCC
catalyst | Pd/C | 0.02 g | [Pd] | Pd
product | 3-amino-5-ethyl-4-methyl-2-pyridone | NC=1C(NC=C(C1C)CC)=O | C8H12N2O
